US04401814
DAMN (0.727 g; 0.1 mole), N-dichloromethylformamidinium chloride (0.12 g; 0.01 mole) and ammonium acetate (0.51 g; 0.01 mole) were charged to a 3 oz. Aerosol Compatibility Tube (Fischer and Porter Co.) at room temperature. An ammoniacal formamide solution consisting of 15 ml of formamide and 0.343 g ammonia was then added to the tube. The reaction was run for 2 hours at 100° C. with magnetic stirring. The mixture was cooled to 40° C. and a black solid by-product which formed during the reaction was filtered. HPLC indicated an adenine yield of 41.5%.

reactant | N-dichloromethylformamidinium chloride | 0.01 mole, 0.12 g | [Cl-].ClC(NC=[NH2+])Cl
reactant | ammonium acetate | 0.01 mole, 0.51 g | C(C)(=O)[O-].[NH4+]
reactant | formamide | C(=O)N | CH3NO
reactant | formamide | 15 ml | C(=O)N | CH3NO
reactant | ammonia | 0.343 g | N | H3N
product | adenine | yield of 41.5% | N1=CN=C2N=CNC2=C1N | C5H5N5
